US06043254
(a) 2-acetylamino-5-methyl-4-phenyl-imidazole
Prepared by reacting 2-bromo-propiophenone with 3 equivalents of 1-acetyl-guanidine in DMF (ambient temperature, 3 days).

reactant | 2-bromo-propiophenone | BrC(C(=O)C1=CC=CC=C1)C | C9H9BrO
reactant | 1-acetyl-guanidine | 3 equivalents | C(C)(=O)NC(=N)N | C3H7N3O
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-acetylamino-5-methyl-4-phenyl-imidazole | C(C)(=O)NC=1NC(=C(N1)C1=CC=CC=C1)C | C12H13N3O
